US05985909
A mixture of 2-(methoxycarbonyl)-N-[2-(2-pyridinyl)-ethyl]indole-6-carboxamide (326 mg, 1.01 mmol) and KOH (68 mg, 1.21 mmol) in THF (20 mL) and H2O (3 mL) was stirred at 20° C. for 15 h then at 65° C. for 3 h, cooled and neutralised with 2N HCl (0.61 mL, 1.2 mmol). The THF was evaporated, the aqueous residue allowed to cool, and the solid filtered off and dried to give 2-carboxy-N-[2-(2-pyridinyl)ethyl]indole-6-carboxamide as a white solid (258 mg, 83%), mp 198-199° C. 1H NMR [(CD3)2SO] δ13.14 (br s, 1H, CO2H), 12.07 (s, 1H, indole NH), 8.59 (t, J=5.6 Hz, 1H, amide NH), 8.54-8.51 (m, 1H, H-6'), 7.95 (s, 1H, H-3 or H-7), 7.71 (td, J=7.7, 1.7 Hz, 1H, H-4'), 7.68 (d, J=8.5 Hz, 1H, H-4), 7.53 (dd, J=8.5, 1.4 Hz, 1H, H-5), 7.29 (d, J=7.8 Hz, 1H, H-3'), 7.23 (ddd, J=7.4, 4.7, 0.8 Hz, 1H, H-5'), 7.13 (d, J=1.2 Hz, 1H, H-3 or H-7), 3.64 (q, J=6.8 Hz, 2H, NHCH2CH2 py), 3.02 (t, J=7.4 Hz, 2H, NHCH2CH2 py); 13C NMR δ166.7 (CONH), 162.5 (CO2H), 159.2 (C-2'), 136.5, 130.6, 130.5, 128.7 (C-2,6,8,9), 149.0, 136.4, 123.1, 121.4, 118.7, 112.2, 107.0 (one peak doubled or not observed, C-3,4,5,7,3',4',5',6'), 39.3, 37.3 (NHCH2CH2 py). Anal. (C17H15N3O3) C,H,N.

reactant | 2-(methoxycarbonyl)-N-[2-(2-pyridinyl)-ethyl]indole-6-carboxamide | 1.01 mmol, 326 mg | COC(=O)C=1NC2=CC(=CC=C2C1)C(=O)NCCC1=NC=CC=C1 | C18H17N3O3
reactant | KOH | 1.21 mmol, 68 mg | [OH-].[K+]
reactant | HCl | 1.2 mmol, 2N, 0.61 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | 3 mL | O | H2O
product | 2-carboxy-N-[2-(2-pyridinyl)ethyl]indole-6-carboxamide | 258 mg, 83% | C(=O)(O)C=1NC2=CC(=CC=C2C1)C(=O)NCCC1=NC=CC=C1 | C17H15N3O3
